US07572811B2
To a solution of (4-cyclohexyl-3-trifluoromethyl-phenyl)-methanol (258 mg, 1.0 mmol) in DMF (7 mL) is added sodium hydride (60% in mineral oil, 60 mg, 1.5 mmol) at 0° C. and the reaction mixture is stirred at 0° C. for 30 minutes. After the addition of a solution of 2-chloro-5-bromopyridine (231 mg, 1.2 mmol) in DMF (3 mL), the reaction mixture is stirred at 0° C. for 1 h and at room temperature for 18 hours. The reaction mixture is poured into saturated aqueous NH4Cl and extracted with EtOAc. The combined extracts are washed with brine and dried over Na2SO4. After concentration, the residue is purified by silica gel chromatography (19:1 hexanes/EtOAc) to give 5-Bromo-2-(4-cyclohexyl-3-trifluoromethyl-benzyloxy)-pyridine.

reactant | (4-cyclohexyl-3-trifluoromethyl-phenyl)-methanol | 1.0 mmol, 258 mg | C1(CCCCC1)C1=C(C=C(C=C1)CO)C(F)(F)F | C14H17F3O
reactant | sodium hydride | 1.5 mmol, 60 mg | [H-].[Na+]
reactant | 2-chloro-5-bromopyridine | 1.2 mmol, 231 mg | ClC1=NC=C(C=C1)Br | C5H3BrClN
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-2-(4-cyclohexyl-3-trifluoromethyl-benzyloxy)-pyridine | BrC=1C=CC(=NC1)OCC1=CC(=C(C=C1)C1CCCCC1)C(F)(F)F | C19H19BrF3NO
